US04723991
N-[(3-Cyano-4,6-dimethylpyridin-2-yl)aminocarbonyl]-2-nitrobenzenesulfonamide (I; J=J-1, R1 =NO2, R2 =H; Z=CH, W=CN, X=Y=CH3, R=H)
To a stirred suspension of 0.5 g (4.3 mmol) 2-amino-4,6-dimethyl-3-pyridinecarbonitrile [Archiv. Pharm., 288, 174 (1955)] in 20 ml of acetonitrile was added 1.3 g (5.7 mmol) o-nitrobenzenesulfonyl isocyanate. The mixture was then heated to reflux (80°) for four hours followed by stirring at ambient temperature overnight. A crystalline product was collected, 0.5 g, m.p. 174°-176° dec. An infrared spectrum (nujol mull) exhibited absorptions at 1700, 1720 and 2240 cm-1 ; and a proton magnetic resonance spectrum (90 MHz NMR) exhibited absorptions at 2.5 (s, 3H), 2.6 (s, 3H), 7.05 (s, H), 7.7 (s br, NH), 7.8 (m, 3H), 8.4 (m, 1H), 9.7 (s br, NH) ppm indicating the title compound.

reactant | 2-amino-4,6-dimethyl-3-pyridinecarbonitrile | 4.3 mmol, 0.5 g | NC1=NC(=CC(=C1C#N)C)C | C8H9N3
reactant | o-nitrobenzenesulfonyl isocyanate | 5.7 mmol, 1.3 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4N2O5S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[(3-Cyano-4,6-dimethylpyridin-2-yl)aminocarbonyl]-2-nitrobenzenesulfonamide | C(#N)C=1C(=NC(=CC1C)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C15H13N5O5S
